US05135914
Step C: Preparation of [2R-[2R*,3S*(S*)]]-3-[[6-amino-2-[[3-(1-naphthalenyl)-2-(1-naphthalenylmethyl)-1-oxopropyl]amino]-1-oxohexyl]amino]-2-hydroxy-5-methylhexanoic acid, 1-methylethyl ester
[2R-[2R*,3S*(S*)]-2-hydroxy-5-methyl-3-[[2-[[3-(1-naphthalenyl)-2-(1-naphthalenylmethyl)-1-oxopropyl]amino]-1-oxo-6-[[(phenylmethoxy)carbonyl]amino]hexyl]amino]hexanoic acid, 1-methylethyl ester, 3.97 g (5.0 mmol), is dissolved in 250 ml of absolute ethanol, 0.5 g of 20% palladiun charcoal is added, and the mixture exposed to hydrogen gas for 18 hours. After complete uptake of hydrogen the mixture is filtered and concentrated to afford 3.44 g of the title compound.

reactant | 2-hydroxy-5-methyl-3-[[2-[[3-(1-naphthalenyl)-2-(1-naphthalenylmethyl)-1-oxopropyl]amino]-1-oxo-6-[[(phenylmethoxy)carbonyl]amino]hexyl]amino]hexanoic acid, 1-methylethyl ester | OC(C(=O)OC(C)C)C(CC(C)C)NC(C(CCCCNC(=O)OCC1=CC=CC=C1)NC(C(CC1=CC=CC2=CC=CC=C12)CC1=CC=CC2=CC=CC=C12)=O)=O | C48H57N3O7
reactant | charcoal | 0.5 g | C | CH4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 3-[[6-amino-2-[[3-(1-naphthalenyl)-2-(1-naphthalenylmethyl)-1-oxopropyl]amino]-1-oxohexyl]amino]-2-hydroxy-5-methylhexanoic acid, 1-methylethyl ester | 3.44 g | NCCCCC(C(=O)NC(C(C(=O)OC(C)C)O)CC(C)C)NC(C(CC1=CC=CC2=CC=CC=C12)CC1=CC=CC2=CC=CC=C12)=O | C40H51N3O5
